US04205074
1-Diphenylmethyleneindolizidine methyl bromide
In 10 ml. of acetone was dissolved 0.5 g. of 1-diphenylmethyleneindolizidine. To the resulting solution was added 2 ml. of methyl bromide. The mixture was allowed to stand for 30 mins. The crystals obtained after distilling of the solvent were washed with acetone to obtain 540 mg. of colorless plate-like crystals showing a melting point of 210°-211° C. were obtained.

reactant | 1-diphenylmethyleneindolizidine | C1(=CC=CC=C1)C(=C1CCN2CCCCC12)C1=CC=CC=C1 | C21H23N
reactant | methyl bromide | CBr | CH3Br
solvent | acetone | CC(=O)C | C3H6O
product | 1-Diphenylmethyleneindolizidine methyl bromide | CBr.C1(=CC=CC=C1)C(=C1CCN2CCCCC12)C1=CC=CC=C1 | InChI=1S/C21H23N.CH3Br/c1-3-9-17(10-4-1)21(18-11-5-2-6-12-18)19-14-16-22-15-8-7-13-20(19)22;1-2/h1-6,9-12,20H,7-8,13-16H2;1H3
